US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.35 mmol), 4-hydroxy-3-nitrobenzaldehyde (1.22 mmol), methanol (3.8 mL), and acetic acid (0.175 mL) was added NaBH3CN (1.58 mmol) in methanol (3.2 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Variant™ SCX column, and washed with CH3OH. Product was eluted off using 2 N NH3 in CH3OH and concentrated. The resulting material was dissolved into ethyl acetate/methanol=5/1, loaded onto Varian™ Si column, eluted off using ethyl acetate/methanol 5/1 (10 mL), and concentrated to give 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-hydroxy-3-nitrobenzyl)piperidine (175 mg, 87%).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.35 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 4-hydroxy-3-nitrobenzaldehyde | 1.22 mmol | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | acetic acid | 0.175 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 1.58 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 3.2 mL | CO | CH4O
solvent | methanol | 3.8 mL | CO | CH4O
product | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-hydroxy-3-nitrobenzyl)piperidine | 175 mg, 87% | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)[N+](=O)[O-])C=C(C(=C1)F)F | C27H33F2N5O7
